US04482546
3,5-Dichloro-4-methoxyaniline (1.8 g) and diethylaniline (1.5 g) were dissolved in benzene (20 ml). To the resultant solution was dropwise added isopropyl chloroformate (1.2 g) in 5 minutes under ice-cooling. After being allowed to stand at room temperature for 12 hours, the reaction mixture was poured into ice water and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography using a mixture of benzene and tetrahydrofuran as the eluent to give isopropyl N-(3,5-dichloro-4-methoxyphenyl)carbamate (Compound No. 2) (2.4 g) in a yield of 91.8%.

reactant | 3,5-Dichloro-4-methoxyaniline | 1.8 g | ClC=1C=C(N)C=C(C1OC)Cl | C7H7Cl2NO
reactant | diethylaniline | 1.5 g | CCN(CC)C=1C=CC=CC1 | C10H15N
reactant | isopropyl chloroformate | 1.2 g | ClC(=O)OC(C)C | C4H7ClO2
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | isopropyl N-(3,5-dichloro-4-methoxyphenyl)carbamate | 2.4 g, yield of 91.8% | ClC=1C=C(C=C(C1OC)Cl)NC(OC(C)C)=O | C11H13Cl2NO3
